US07482345B2
3-chloro-6-(2,6-difluorobenzyl)pyridazine
To a solution of 3,6-dichloro pyridazine (7.39 g, 50 mmol) and tetrakis(triphenylphosphine)palladium (2.89 g, 2.5 mmol) in THF (500 mL) was added 2,6 difluoro benzyl zinc bromide (120 mL, 60 mmol). The reaction mixture was heated to 80° C. for 1.5 hours until the reaction was complete by TLC. The reaction was cooled to room temperature, filtered through celite, and concentrated in vacuo. The crude residue was recrystalized from ether to yield 5.7 g of the title compound.

reactant | 3,6-dichloro pyridazine | 50 mmol, 7.39 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 2,6 difluoro benzyl zinc bromide | 60 mmol, 120 mL | [Br-].FC1=C(C[Zn+])C(=CC=C1)F
solvent | THF | 500 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 2.5 mmol, 2.89 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-chloro-6-(2,6-difluorobenzyl)pyridazine | 5.7 g | ClC=1N=NC(=CC1)CC1=C(C=CC=C1F)F | C11H7ClF2N2
